US03946045
Preparation of N-(1,3-Dioxolan-5-ylmethyl)-2,6-dimethylaniline
2,6-Dimethylaniline (94.5 grams), 5-chloromethyl-1,3-dioxolane (31.8 grams), potassium carbonate (36.7 grams) and tetraethylammonium chloride (2 grams) were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture was heated at reflux for a period of 48 hours. After this time the mixture was filtered and distilled to yield the desired product N-(1,3-dioxolan-5-ylmethyl)-2,6-dimethylaniline having a boiling point of 132°C under aspirator pressure.

reactant | 2,6-Dimethylaniline | 94.5 grams | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | 5-chloromethyl-1,3-dioxolane | 31.8 grams | ClCC1COCO1 | C4H7ClO2
reactant | potassium carbonate | 36.7 grams | C([O-])([O-])=O.[K+].[K+]
catalyst | tetraethylammonium chloride | 2 grams | [Cl-].C(C)[N+](CC)(CC)CC
product | N-(1,3-dioxolan-5-ylmethyl)-2,6-dimethylaniline | O1COCC1CNC1=C(C=CC=C1C)C | C12H17NO2
